US07291744B2
Part f. Preparation of Phenyl 3-ethyl-5-(1-methyl-1H-tetraazol-5-yl)phenylcarbamate
3-Ethyl-5-(1-methyl-1H-tetraazol-5-yl)aniline (3.83 g, 19 mmol, 1 equiv.), was dissolved in THF at 25° C. under nitrogen then 2,6-lutidine (Aldrich, 2.17 ml, 19 mmol, 1 equiv.) was added. Cooled the reaction to 0° C. Added a THF solution of phenyl chloroformate (2.36 ml, 19 mmol, 1 equiv.) dropwise via an addition funnel. Worked up after 1 hour by adding ethyl acetate and 0.1 N HCl. Separated the layers and rinsed the organic layer twice more with 0.1 N HCl and once with brine. The organic layer was dried over MgSO4 then stripped in vacuo to give 6.00 g of tan solids as product. NMR (300 MHz, CDCl3) δ 7.86 (s, 1H), 7.50-7.30 (m, 5H), 7.30-7.10 (m, 3H), 4.17 (s, 3H), 2.71 (q, 2H, J=7 Hz), 1.27 (t, 3H, J=7 Hz).

reactant | 3-Ethyl-5-(1-methyl-1H-tetraazol-5-yl)aniline | 19 mmol, 3.83 g, 1 equiv. | C(C)C=1C=C(N)C=C(C1)C1=NN=NN1C | C10H13N5
reactant | 2,6-lutidine | 19 mmol, 2.17 ml, 1 equiv. | N1=C(C=CC=C1C)C | C7H9N
reactant | phenyl chloroformate | 19 mmol, 2.36 ml, 1 equiv. | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | HCl | 0.1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Phenyl 3-ethyl-5-(1-methyl-1H-tetraazol-5-yl)phenylcarbamate | 6.00 g | C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(OC1=CC=CC=C1)=O | C17H17N5O2
